US07414063B2
N-(2-benzyl-4-chloro-phenyl)-2,2,2-trifluoro-acetamide
Trifluoroacetic anhydride (0.713 mL, 5.05 mmol) is added dropwise to a stirred solution of 2-benzyl-4-chloro-phenylamine (1.00 g, 4.59 mmol) in anhydrous 1,2-dichloroethane (5 mL) at ambient temperature under nitrogen. The resultant mixture is stirred for 5 minutes. Dichloromethane (20 mL) and water (10 mL) are added to the mixture. The organic layer is separated, dried over MgSO4, filtered and concentrated to give 1.31 g (4.18 mmol, 91% crude yield) of the title compound as a white solid. ESIMS: m/z 312 [(M−H)−, 35Cl], 314 [(M−H)−, 37Cl].

reactant | Trifluoroacetic anhydride | 5.05 mmol, 0.713 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-benzyl-4-chloro-phenylamine | 4.59 mmol, 1.00 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)N | C13H12ClN
reactant | Dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | water | 10 mL | O | H2O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-(2-benzyl-4-chloro-phenyl)-2,2,2-trifluoro-acetamide | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)NC(C(F)(F)F)=O | C15H11ClF3NO
